US06441236B1
1-(2,5,5-trimethyl-[1,3]-dioxan-2-yl)propane-l,2-dione 1(E)-(O-methyloxime) (Tab.1, III.4)
20 g (0.14 mol) of pentane-2,3,4-trione 3-(O-methyloxime), 43.4 g (0.42 mol) of neopentyl glycol and 0.1 g of conc. sulfuric acid in 80 ml of toluene were heated at the boil on a water separator at a pressure of 800 mbar for 2 hours. The mixture was extracted with water and toluene and then worked up as in Example 4b). This gave 30 g of an oil of a purity of 84% (yield 79%).

reactant | pentane-2,3,4-trione 3-(O-methyloxime) | 0.14 mol, 20 g | CON=C(C(C)=O)C(C)=O | C6H9NO3
reactant | neopentyl glycol | 0.42 mol, 43.4 g | OCC(C)(CO)C | C5H12O2
reactant | sulfuric acid | 0.1 g | S(O)(O)(=O)=O | H2O4S
reactant | water | O | H2O
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(2,5,5-trimethyl-[1,3]-dioxan-2-yl)propane-l,2-dione 1(E)-(O-methyloxime) | yield 79% | CO\N=C(/C(C)=O)\C1(OCC(CO1)(C)C)C | C11H19NO4
